US08076359B2
Step 2: Methyl 3-(benzyloxy)-5-(hydroxymethyl)benzoate
To a solution of 3-(benzyloxy)-5-(methoxycarbonyl)benzoic acid (1 eq.) from the previous step in THF (0.2 M) at 0° C. was added borane-dimethylsulfide (1.5 eq.) and stirred at rt for 18 h. Additional borane-dimethylsulfide (3 eq.) was added and the reaction was stirred for another 2 h at rt. The reaction was slowly quenched with methanol and then concentrated in vacuo. The residue was diluted with EtOAc and washed with saturated aqueous NaHCO3 solution, and brine. The organic extract was dried over MgSO4 and concentrated in vacuo to give the title compound.

reactant | 3-(benzyloxy)-5-(methoxycarbonyl)benzoic acid | 1 eq. | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1)C(=O)OC | C16H14O5
reactant | borane dimethylsulfide | 1.5 eq. | B.CSC
reactant | borane dimethylsulfide | 3 eq. | B.CSC
solvent | THF | 0.2 M | C1CCOC1 | C4H8O
product | Methyl 3-(benzyloxy)-5-(hydroxymethyl)benzoate | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1)CO | C16H16O4
